US05866568
4-Bromophenyl cyclopropyl ketone (5.63 g), hydrazine monohydrate (2.5 ml) and potassium hydroxide (3.33 g) were added to ethylene glycol (25 ml) and the mixture heated to reflux for 1 hour. The reaction mixture was cooled and partitioned between water (20 ml) and ethyl acetate (30 ml) and the organic layer was separated. The aqueous layer was extracted with ethyl acetate (30 ml) and the combined organic phases were washed with 2M hydrochloric acid (15 ml) and water (15 ml) then dried (MgSO4) and evaporated. The residue was purified by chromatography on a Mega Bond Elut column, eluting with hexane to give 1-bromo-4-(cyclopropylmethyl)benzene (2.6 g); 1H NMR (CDCl3): 0.2 (m, 2 H), 0.55 (m, 2 H), 2.50 (d, 2 H), 7.14 (d, 2 H), 7.41 (d, 2 H); mass spectrum (EI+) 210 (M.)+.

reactant | 4-Bromophenyl cyclopropyl ketone | 5.63 g | C1(CC1)C(=O)C1=CC=C(C=C1)Br | C10H9BrO
reactant | hydrazine monohydrate | 2.5 ml | O.NN
reactant | potassium hydroxide | 3.33 g | [OH-].[K+]
solvent | ethylene glycol | 25 ml | C(CO)O | C2H6O2
product | 1-bromo-4-(cyclopropylmethyl)benzene | 2.6 g | BrC1=CC=C(C=C1)CC1CC1 | C10H11Br
